US03959259
By treating 4 g. of the product of Example 1 (c) with 4.5 g. of 7-aminocephalosporanic acid which has been dissolved in 100 ml. of anhydrous chloroform with 6 ml. of triethylamine according to the procedure of Example 1 (d), 2.8 g. of 3-[(acetyloxy)methyl]-7β-[[(4,5-dihydro-5-oxo-1,2,4-oxadiazol-3-yl)phenyl-acetyl[amino[-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid is obtained which decomposes between 95° and 100°.

reactant | 7-aminocephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | O=C1CC2SCC=C(N12)C(=O)O | C7H7NO3S
